US08211927B2
C: N-Cyclopentyl-4-ethyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide
To a stirred solution of N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)-4-vinylisoxazole-3-carboxamide (70 mg, 0.2 mmol) in ethanol (2 mL), palladium on carbon (5%) (5 mg) was added and the reaction mixture was then placed under a hydrogen atmosphere (balloon) for 2 hours. After this time the crude mixture was filtered through celite and concentrated in vacuo. Purification by silica gel chromatography eluting with heptane increasing to heptane to 15% ethylacetate in heptane afforded the title compound (36 mg, 0.1 mmol).

reactant | N-cyclopentyl-5-(4-(trifluoromethyl)phenyl)-4-vinylisoxazole-3-carboxamide | 0.2 mmol, 70 mg | C1(CCCC1)NC(=O)C1=NOC(=C1C=C)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
product | N-Cyclopentyl-4-ethyl-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | 0.1 mmol, 36 mg | C1(CCCC1)NC(=O)C1=NOC(=C1CC)C1=CC=C(C=C1)C(F)(F)F | C18H19F3N2O2
